US04182762
A solution of 5.0 pts. by wt. of (2-amino-ethyl)-hydrazine in 50 pts. by vol. of abs. methanol and a solution of 7.8 pts. by wt. of oxalic acid dimethyl ester in 50 pts. by vol. of abs. methanol are added dropwise, very slowly, at the same time and uniformly, to 50 pts. by vol. of abs. methanol at 50°-60° C., whilst stirring vigorously. After the dropwise addition has ended, the mixture is stirred for a further 1 hr. at this temperature. Thereafter, the white precipitate which has formed is filtered off and the filtrate is concentrated. The residue is recrystallised from methanol/water. 4.8 pts. by wt. of 1-amino-2,3-dioxopiperazine of decomp. pt. 240°-243° C. are obtained.

reactant | (2-amino-ethyl)-hydrazine | NCCNN | C2H9N3
reactant | oxalic acid dimethyl ester | COC(C(=O)OC)=O | C4H6O4
solvent | methanol | CO | CH4O
product | 1-amino-2,3-dioxopiperazine | NN1C(C(NCC1)=O)=O | C4H7N3O2
